US08022068B2
d) 3-[(2S,4R,5R)-4-[4-((S)-3-Methoxy-2-methyl-propoxymethyl)-phenyl]-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-propionic acid methyl ester
To a solution of 1.0 mmol of 3-[(2S,4R,5R)-4-[4-((S)-3-methoxy-2-methyl-propoxymethyl)-phenyl]-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-propionic acid in 5 ml of MeOH at 0° C. are added 5.0 mmol of TMS-diazomethane (2M in hexane) until the conversion to the methyl ester is complete. The reaction mixture is treated with magnesium sulfate to destroy the excess of TMS-diazomethane. The solids are removed by filtration and the organic layer is concentrated under reduced pressure. The residue is purified by flash chromatography (SiO2 60 F) to afford the title compound which is identified based on its Rf-value.

reactant | 3-[(2S,4R,5R)-4-[4-((S)-3-methoxy-2-methyl-propoxymethyl)-phenyl]-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-propionic acid | 1.0 mmol | COC[C@@H](COCC1=CC=C(C=C1)[C@H]1C[C@@H](N(C[C@@H]1OCC=1C=CC2=C(N(CCO2)CCCOC)C1)S(=O)(=O)C1=CC=C(C=C1)C)CCC(=O)O)C | C40H54N2O9S
reactant | TMS-diazomethane | 5.0 mmol, 2M | [Si](C)(C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | MeOH | 5 ml | CO | CH4O
product | 3-[(2S,4R,5R)-4-[4-((S)-3-Methoxy-2-methyl-propoxymethyl)-phenyl]-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-propionic acid methyl ester | COC(CC[C@@H]1N(C[C@@H]([C@H](C1)C1=CC=C(C=C1)COC[C@H](COC)C)OCC=1C=CC2=C(N(CCO2)CCCOC)C1)S(=O)(=O)C1=CC=C(C=C1)C)=O | C41H56N2O9S
